US08232284B2
Thionyl chloride (15 ml) was added to 5,6-dichloronicotinic acid (2.0 g, 10.4 mmol), and stirred under a nitrogen atmosphere at 90° C. for 30 minutes. The reaction solution was concentrated under reduced pressure, and with cooling with ice, triethylamine (4.36 ml, 31.3 mmol) and N,N,N′-trimethylpropane-1,3-diamine (2.39 ml, 15.6 mmol) were added to a tetrahydrofuran solution (30 ml) of the obtained residue, and stirred at room temperature for 3 minutes. Saturated saline water was added to the reaction solution, and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Biotage NH, hexane:ethyl acetate=4:1 to 1:1) to obtain 5,6-dichloro-N-[3-(dimethylamino)propyl]-N-methylnicotinamide (3.21 mg) as an orange oil.

reactant | Thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5,6-dichloronicotinic acid | 10.4 mmol, 2.0 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | triethylamine | 31.3 mmol, 4.36 ml | C(C)N(CC)CC | C6H15N
reactant | N,N,N′-trimethylpropane-1,3-diamine | 15.6 mmol, 2.39 ml | CN(CCCNC)C | C6H16N2
solvent | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5,6-dichloro-N-[3-(dimethylamino)propyl]-N-methylnicotinamide | 3.21 mg | ClC=1C(=NC=C(C(=O)N(C)CCCN(C)C)C1)Cl | C12H17Cl2N3O
